US08557805B2
2-(2-{5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)ethanol
Ethyl(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (300 mg) was dissolved in tetrahydrofuran (10 mL), lithium tetrahydroborate (29 mg) was added under ice-cooling, and the mixture was stirred at 50° C. for 30 min. To the reaction solution was added lithium tetrahydroborate (29 mg), and the mixture was stirred at 50° C. for 2.5 hr. Furthermore, lithium tetrahydroborate (29 mg) was added, and the mixture was stirred at 50° C. for 3 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (methanol:ethyl acetate:hexane=0:90:10 to 10:90:0, volume ratio) to give the title compound (150 mg, yield 54%) as a pale-yellow amorphous solid. The amorphous solid was crystallized from ethyl acetate-diethyl ether-hexane, and the obtained crystals were recrystallized from ethyl acetate-hexane to give the title compound as pale-yellow crystals.

reactant | Ethyl(2-{5-[4-(methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 300 mg | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC1=CC=C(C=C1)S(=O)(=O)C)OC1CCOCC1)=O | C27H30N2O7S2
reactant | lithium tetrahydroborate | 29 mg | [BH4-].[Li+]
reactant | lithium tetrahydroborate | 29 mg | [BH4-].[Li+]
reactant | lithium tetrahydroborate | 29 mg | [BH4-].[Li+]
reactant | Water | O | H2O
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-{5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)ethanol | 150 mg, yield 54% | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C=2SC(CN2)CCO)C=C1 | C25H28N2O6S2
